US08232294B2
Step 10) 1-(2-(4-(2-fluoro-4-(1-(phenylcarbamoyl)cyclopropanecarboxamido)phenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-aminoacetate hydrochloride
To a solution of 1-(2-(4-(2-fluoro-4-(1-(phenylcarbamoyl)cyclopropane-carboxamido)phenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate (23 mg, 0.03 mmol) in EtOAc (1 mL) was added HCl (2 mol/L in EtOAc, 1 mL). The mixture was stirred at rt for 2 h, and then concentrated in vacuo to give the title compound as a white solid (15 mg, 83%).

reactant | 1-(2-(4-(2-fluoro-4-(1-(phenylcarbamoyl)cyclopropane-carboxamido)phenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate | 0.03 mmol, 23 mg | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)CCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=CC=C1)=O)F | C38H39FN4O8
reactant | HCl | 2 mol/L, 1 mL | Cl | ClH
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
product | 1-(2-(4-(2-fluoro-4-(1-(phenylcarbamoyl)cyclopropanecarboxamido)phenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-aminoacetate hydrochloride | 15 mg, 83% | Cl.NCC(=O)OC1(CC1)CCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=CC=C1)=O)F | InChI=1S/C33H31FN4O6.ClH/c34-25-18-22(38-31(41)33(13-14-33)30(40)37-21-4-2-1-3-5-21)6-9-28(25)43-27-10-16-36-26-19-23(7-8-24(26)27)42-17-15-32(11-12-32)44-29(39)20-35;/h1-10,16,18-19H,11-15,17,20,35H2,(H,37,40)(H,38,41);1H
